US07951819B2
N-(3-Chloro-5-(2,3-Diaminopyridin-4-yloxy)phenyl)-3-(trifluoromethoxy)benzamide
Method D was used with N-(3-(2-Amino-3-nitropyridin-4-yloxy)-5-chlorophenyl)-3-(trifluoromethoxy)benzamide and with 5% sulphided platinum on carbon as catalyst to afford the title compound (92 mg, 98%). 1H NMR δ (DMSO) 4.53 (s, 2H, NH2), 5.66 (s, 2H, NH2), 6.19 (d, 1H, Hpy,5, J=5.5 Hz), 6.82 (t, 1H, Harom, J=2 Hz), 7.31 (d, 1H, Hpy,6, J=5.5 Hz), 7.34 (t, 1H, Harom, J=2 Hz), 7.61 (d, 1H, Harom, J=8 Hz), 7.68 (t, 1H, Harom, J=8 Hz), 7.73 (t, 1H, Harom, J=2 Hz), 7.87 (s, 1H, Harom,2′), 7.97 (d, 1H, Harom, J=8 Hz), 10.51 (s, 1H, CONH). 19F NMR δ (DMSO)-56.37 (s, 3F, CF3). MS m/z 439/441 (M++1).

reactant | N-(3-(2-Amino-3-nitropyridin-4-yloxy)-5-chlorophenyl)-3-(trifluoromethoxy)benzamide | NC1=NC=CC(=C1[N+](=O)[O-])OC=1C=C(C=C(C1)Cl)NC(C1=CC(=CC=C1)OC(F)(F)F)=O | C19H12ClF3N4O5
catalyst | sulphided platinum on carbon | [Pt] | Pt
product | N-(3-Chloro-5-(2,3-Diaminopyridin-4-yloxy)phenyl)-3-(trifluoromethoxy)benzamide | 92 mg, 98% | ClC=1C=C(C=C(C1)OC1=C(C(=NC=C1)N)N)NC(C1=CC(=CC=C1)OC(F)(F)F)=O | C19H14ClF3N4O3
